US06982348B2
N-((1RS,2SR)-2-hydroxy-2-(4-(phenyloxy)phenyl)-1-((3-((1,1,2,2-tetrafluoroethyl)oxy)phenyl)methyl)ethyl)-6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxamide
To a solution of (1RS,2SR)-2-amino-1-(4-(phenyloxy)phenyl)-3-(3-((1,1,2,2-tetrafluoroethyl)oxy)phenyl)-1-propanol (300 mg, 0.69 mmol) in acetonitrile (16 ml) were added 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid (130 mg, 0.69 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (198 mg, 1.03 mmol) and 1-hydroxy-1H-benzotriazole (106 mg, 0.69 mmol), and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed successively with 1N hydrochloric acid, 1N aqueous sodium hydroxide solution and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. Recrystallization of the residue from ethyl acetate-hexane gave the title compound (285 mg, 68%).

reactant | (1RS,2SR)-2-amino-1-(4-(phenyloxy)phenyl)-3-(3-((1,1,2,2-tetrafluoroethyl)oxy)phenyl)-1-propanol | 0.69 mmol, 300 mg | NC(C(O)C1=CC=C(C=C1)OC1=CC=CC=C1)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C23H21F4NO3
reactant | 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid | 0.69 mmol, 130 mg | C=1(C=CC=C2C1C=CCCC2)C(=O)O | C12H12O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.03 mmol, 198 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole | 0.69 mmol, 106 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | acetonitrile | 16 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | N-((1RS,2SR)-2-hydroxy-2-(4-(phenyloxy)phenyl)-1-((3-((1,1,2,2-tetrafluoroethyl)oxy)phenyl)methyl)ethyl)-6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxamide | 285 mg, 68% | OC(C(CC1=CC(=CC=C1)OC(C(F)F)(F)F)NC(=O)C=1C=CC=C2C1C=CCCC2)C2=CC=C(C=C2)OC2=CC=CC=C2 | C35H31F4NO4
